### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation): add API

### PR DESCRIPTION
**Pull request by mariainesdff**
Prerequisites for #26872.

Co-authored by: @faenuccio.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 1]
```diff
@@ -153,6 +153,11 @@ lemma restrict₀_of_ne_zero {a : A} (h : f a ≠ 0) :
 
 lemma restrict₀_eq_zero_iff {a : A} : restrict₀ f a = 0 ↔ f a = 0 := by simp [restrict₀_apply]
 
+lemma restrict₀_eq_one_iff {a : A} : restrict₀ f a = 1 ↔ f a = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Range.lean:158]: Maybe `simp`?

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 2]
```diff
@@ -191,6 +197,25 @@ lemma valueGroup_eq_range : Units.val '' (valueGroup f) = (range f \ {0}) := by
     refine ⟨Units.mk0 x hx₀, ?_, rfl⟩
     simpa [Units.val_mk0, mem_range] using ⟨y, hy⟩
 
+lemma ValueGroup₀.restrict₀_range_eq_top : range (ValueGroup₀.restrict₀ f) = ⊤ := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Range.lean:203]: `simp`?

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 3]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+        · simp
+        · simp
+        · simp only [le_zero_iff, WithZero.coe_ne_zero, WithZero.coe_le_coe, Subtype.mk_le_mk,
+            ← Units.val_le_val, Units.val_mk0, false_or]
+          exact map_add_le _ (by simp [hy]) (by rfl)
+        · simp [← Units.val_le_val]
+    · simp only [ne_eq, not_or, Decidable.not_not] at H
+      simp only [ZeroHom.toFun_eq_coe, toZeroHom_coe, restrict₀_apply, H, ↓reduceDIte, max_self,
+        le_zero_iff, dite_eq_left_iff, WithZero.coe_ne_zero, imp_false, Decidable.not_not]
+      simpa using map_add_le _ (le_of_eq H.1) (le_of_eq H.2)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean:472]:
```suggestion
    by_cases H : v x ≠ 0 ∨ v y ≠ 0
    · rcases H with h | h <;>
      simp only [ZeroHom.toFun_eq_coe, toZeroHom_coe, restrict₀_apply, h, ↓reduceDIte] <;>
      · split_ifs with H _ hy
        all_goals simp [← Units.val_le_val]
        simpa using map_add_le _ (by simp_all) (by simp_all)
    · simp only [ne_eq, not_or, Decidable.not_not] at H
      simp only [ZeroHom.toFun_eq_coe, toZeroHom_coe, restrict₀_apply, H, ↓reduceDIte, max_self,
        le_zero_iff, dite_eq_left_iff, WithZero.coe_ne_zero, imp_false, Decidable.not_not]
      simpa using map_add_le _ (le_of_eq H.1) (le_of_eq H.2)
```

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 4]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+
+-- ToDo: this should not be a simp lemma!
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Maybe forgotten.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 5]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+@[simp]
+lemma restrict_def (x : R) : v.restrict x = restrict₀ v x := rfl
+
+set_option backward.isDefEq.respectTransparency false in
+lemma restrict_pos_iff (x : R) : 0 < v.restrict x ↔ 0 < v x := by
+  simp only [restrict_def, restrict₀_apply]
+  split_ifs with h
+  · simp [h]
+  · simp [zero_lt_iff.mpr h]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean]:
```suggestion
  split_ifs with h <;>
  simp_all [zero_lt_iff.mpr]
```

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 6]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+
+set_option backward.isDefEq.respectTransparency false in
+lemma restrict_lt_iff {x y : R} : v.restrict x < v.restrict y ↔ v x < v y := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean:485]: This, and also the lemmas below, may be `simp`, but I am not sure.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 7]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+  obtain ⟨a, ⟨ha, x, hax⟩⟩ := (mem_valueGroup_iff_of_comm _).mp u.2
+  have hx : 0 < v x := by
+    rw [← restrict_pos_iff, restrict_def, WithZero.pos_iff_ne_zero, ne_eq, restrict₀_eq_zero_iff]
+    aesop
+  use x, a, hx, zero_lt_iff.mpr ha
+  have hx0 : v.restrict x ≠ 0 := by simp [restrict₀_eq_zero_iff, hx.ne']
+  have ha0 : v.restrict a ≠ 0 := by simp [restrict₀_eq_zero_iff, ha]
+  rw [div_eq_iff ha0, mul_comm, ← embedding_strictMono.injective.eq_iff]
+  simp only [restrict_def, map_mul]
+  erw [embedding_restrict₀ x, embedding_restrict₀ a, ← hax]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Can you get rid of the `erw` here? `erw?` says
```lean
at reducible transparency,
  restrict₀ v
and
  restrict₀ ↑v
```
so you should probably add a lemma saying that.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 8]
```diff
@@ -453,6 +453,105 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+  congr
+  rw [← WithZero.coe_unzero (Units.ne_zero γ)]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Are we missing a `rfl` lemma here?

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Ah, thanks. We did not want to remove this yet in #26872 because it will break many proofs.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 9]
```diff
@@ -453,6 +453,108 @@ lemma mem_leAddSubgroup_iff {v : Valuation R Γ₀} {γ : Γ₀} {x : R} :
...
+  obtain ⟨a, ⟨ha, x, hax⟩⟩ := (mem_valueGroup_iff_of_comm _).mp u.2
+  have hx : 0 < v x := by
+    rw [← restrict_pos_iff, restrict_def, WithZero.pos_iff_ne_zero, ne_eq, restrict₀_eq_zero_iff]
+    aesop
+  use x, a, hx, zero_lt_iff.mpr ha
+  have hx0 : v.restrict x ≠ 0 := by simp [hx.ne']
+  have ha0 : v.restrict a ≠ 0 := by simp [ha]
+  rw [div_eq_iff ha0, mul_comm, ← embedding_strictMono.injective.eq_iff]
+  simp only [restrict_def, map_mul]
+  erw [embedding_restrict₀ (f := (v : R →*₀ Γ₀)) x, embedding_restrict₀ a, ]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Basic.lean]: You can get rid of the `erw` using
```lean
@[simp]
lemma embedding_restrict (x : R) :
    ValueGroup₀.embedding (v.restrict x) = v x :=
  embedding_restrict₀ x

set_option backward.isDefEq.respectTransparency false in
lemma exists_div_eq_of_unit (γ : (ValueGroup₀ v)ˣ) :
    ∃ r s, 0 < v r ∧ 0 < v s ∧ v.restrict r / v.restrict s = γ.1 := by
  set u := WithZero.unzero (Units.ne_zero γ) with hu_def
  obtain ⟨a, ⟨ha, x, hax⟩⟩ := (mem_valueGroup_iff_of_comm _).mp u.2
  have hx : 0 < v x := by
    rw [← restrict_pos_iff, restrict_def, WithZero.pos_iff_ne_zero, ne_eq, restrict₀_eq_zero_iff]
    aesop
  use x, a, hx, zero_lt_iff.mpr ha
  have hx0 : v.restrict x ≠ 0 := by simp [hx.ne']
  have ha0 : v.restrict a ≠ 0 := by simp [ha]
  rw [div_eq_iff ha0, mul_comm, ← embedding_strictMono.injective.eq_iff, map_mul,
    embedding_restrict, embedding_restrict, ← hax]
  congr
  rw [← WithZero.coe_unzero (Units.ne_zero γ)]
  rfl
```

**Review by riccardobrasca — COMMENTED** [review]
In like 30 minutes v4.29-rc4 will land, can you merge master and see if you can remove some `set_option ...`?

Thanks!

bors d+

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 9 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Great, thanks!
